US04772600
2-(4-Chlorophenyl)-N-[3-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:0.5]
A solution of 2-(4-chlorphenyl)-N-[3-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide in hot isopropyl alcohol was acidified with hydrogen chloride/isopropyl alcohol. Isopropyl ether was added to the cloud point. Upon cooling to room temperature, solid formed which was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum at 50° C. overnight to give 1.9 g of title compound, mp 166°-170° C. (shrinks), 183°-187° C. (melts).

reactant | 2-(4-chlorphenyl)-N-[3-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC(=CC=C1)N(C)C | C22H20ClN5O
reactant | hydrogen chloride isopropyl alcohol | Cl.C(C)(C)O
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-Chlorophenyl)-N-[3-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | 1.9 g | O.Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC(=CC=C1)N(C)C | InChI=1S/C22H20ClN5O.ClH.H2O/c1-27(2)18-6-3-5-17(13-18)25-20(29)14-28-21(15-8-10-16(23)11-9-15)26-19-7-4-12-24-22(19)28;;/h3-13H,14H2,1-2H3,(H,25,29);1H;1H2
